US04672066
4-[(4-Acetyl-3-hydroxy-2-propylphenoxy)methyl]-2-ethoxybenzoic acid ethyl ester was allowed to react with 1.0N sodium hydroxide according to the procedure of Example 70 and the product was purified by recrystallization from methanol to give 4[(4-acetyl-3-hydroxy-2-propylphenoxy) methyl]-2-ethoxybenzoic acid, the title compound, m.p. 145°-150° in 93% yield.

reactant | 4-[(4-Acetyl-3-hydroxy-2-propylphenoxy)methyl]-2-ethoxybenzoic acid ethyl ester | C(C)OC(C1=C(C=C(C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)OCC)=O | C23H28O6
reactant | sodium hydroxide | 1.0N | [OH-].[Na+]
product | 4[(4-acetyl-3-hydroxy-2-propylphenoxy) methyl]-2-ethoxybenzoic acid | C(C)(=O)C1=C(C(=C(OCC2=CC(=C(C(=O)O)C=C2)OCC)C=C1)CCC)O | C21H24O6
